US05364844
Benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)-propionate
7.84 ml (12.5 mmoles) of butyllithium (as a 1.6M hexane solution) were added, whilst ice-cooling and under an atmosphere of nitrogen, to a solution of 1.73 ml (16.7 mmoles) of benzyl alcohol in 50 ml of anhydrous tetrahydrofuran. The mixture was stirred for 10 minutes, and then a solution of 3.50 g (8.36 mmoles) of 4(S)-isopropyl-3-[4-oxo-2(R)-(4-methoxybenzyl)-4-morpholinobutyryl]-2-oxazolidinone (prepared as described in Preparation 13) in 10 ml of anhydrous tetrahydrofuran was added dropwise thereto. The mixture was then stirred for 30 minutes, after which a saturated aqueous solution of ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium pressure silica gel column .chromatography (using a 4:1 by volume mixture of benzene and ethyl acetate as eluent), followed by recrystallization from diisopropyl ether, to give 3.09 g (yield 93%) of the title compound as white crystals, melting at 77°-79° C.

reactant | butyllithium | 12.5 mmoles, 7.84 ml | C(CCC)[Li]
reactant | benzyl alcohol | 16.7 mmoles, 1.73 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | 4(S)-isopropyl-3-[4-oxo-2(R)-(4-methoxybenzyl)-4-morpholinobutyryl]-2-oxazolidinone | 8.36 mmoles, 3.50 g | C(C)(C)[C@@H]1N(C(OC1)=O)C([C@@H](CC(N1CCOCC1)=O)CC1=CC=C(C=C1)OC)=O | C22H30N2O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | Benzyl 2(R)-(4-methoxybenzyl)-3-(morpholinocarbonyl)-propionate | 3.09 g, yield 93% | COC1=CC=C(C[C@@H](C(=O)OCC2=CC=CC=C2)CC(=O)N2CCOCC2)C=C1 | C23H27NO5
